US07105503B2
Quinazoline (2 g) was nitrated with 25 mL of mixture of nitric acid 90%, 10 mL) and sulfuric acid (+20% SO3, 15 mL) at 0° C. for 20 minutes, and then at ambient temperature for 1 hour. The mixture was then poured on ice, neutralized with KOH and the pH was adjusted to 8 with K2CO3 (pH 8). Filtration and recrystallization from EtOH yielded the crystalline product 6-nitroquinazoline (1.7 g).

reactant | Quinazoline | 2 g | N1=CN=CC2=CC=CC=C12 | C8H6N2
reactant | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
reactant | KOH | [OH-].[K+]
reactant | K2CO3 | pH 8 | C(=O)([O-])[O-].[K+].[K+]
reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
product | 6-nitroquinazoline | 1.7 g | [N+](=O)([O-])C=1C=C2C=NC=NC2=CC1 | C8H5N3O2
